US04746669
Thionyl chloride (2.0 ml, 3.3 g, 27 mmol) was added to 1-benzoyl-4-piperidinecarboxylic acid (0.31 g, 1.33 mmol) at 25° C. After stirring for 48 hours, the solution was warmed to 30° C. and concentrated under a stream of nitrogen. The 1-benzoyl-4-piperidinecarbonyl chloride, sufficiently pure for subsequent reactions, was obtained as a colorless oil which crystallized during storage at 0° C.

reactant | Thionyl chloride | 27 mmol, 2.0 ml, 3.3 g | S(=O)(Cl)Cl | Cl2OS
reactant | 1-benzoyl-4-piperidinecarboxylic acid | 1.33 mmol, 0.31 g | C(C1=CC=CC=C1)(=O)N1CCC(CC1)C(=O)O | C13H15NO3
product | 1-benzoyl-4-piperidinecarbonyl chloride | C(C1=CC=CC=C1)(=O)N1CCC(CC1)C(=O)Cl | C13H14ClNO2
